US07750002B2
A mixture of 4-(2-methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester (525 mg), cyclopropylmethyl bromide (218 μL) and potassium carbonate (340 mg) was heated to reflux in MeCN for 16 h. After cooling the reaction mixture was diluted with chloroform, washed with brine, dried (MgSO4) and the solvent removed in vacuo to yield 4-[cyclopropylmethyl-(2-methoxy-ethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (475 mg). Removal of the BOC group with HCl yielded the desired compound, which was isolated as the hydrochloride salt.

reactant | 4-(2-methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | 525 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCOC | C13H26N2O3
reactant | cyclopropylmethyl bromide | 218 μL | C1(CC1)CBr | C4H7Br
reactant | potassium carbonate | 340 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN | CC#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[cyclopropylmethyl-(2-methoxy-ethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 475 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCOC)CC1CC1 | C17H32N2O3
